US07456200B2
Methyl iodide (0.972 mL) was added to a mixture of 3-mercapto-benzoic acid (601 mg, 3.9 mmol) and potassium carbonate (2.7 g, 19.5 mmol) in DMF (8 mL) in an ice-bath. After the reaction was warmed to room temperature and stirred for 1hour, the reaction mixture was diluted with ethyl acetate, washed with water (3×), dried over anhydrous sodium sulfate, filtered, and concentrated to afford 3-methylsulfanyl-benzoic acid methyl ester (684 mg, 96%, yellow oil). 1H NMR (CDCl3), δ (ppm): 7.90 (s, 1H), 7.80 (d, 1H), 7.44 (d, 1H), 7.35 (t, 1H), 3.92 (s, 3H), 2.53 (s, 3H).

reactant | Methyl iodide | 0.972 mL | CI | CH3I
reactant | 3-mercapto-benzoic acid | 3.9 mmol, 601 mg | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | potassium carbonate | 19.5 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methylsulfanyl-benzoic acid methyl ester | 684 mg, 96% | COC(C1=CC(=CC=C1)SC)=O | C9H10O2S
